US05990116
4-Amino-6-[2-(2,5-dimethoxyphenyl)ethyl]-quinazoline (Process e)
A solution of 50 mg of 4-diacetylamino-6-[2-(2,5-dimethoxyphenyl)ethyl]-quinazoline and 10 ml of 1 N aqueous sodium hydroxide solution in dioxane is stirred for 3 hours at room temperature. The mixture is poured onto water and extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate and concentrated in vacuo. The residue is taken up in methanol, stirred for 30 minutes, filtered and concentrated again. Chromatographic purification (silica gel, ethyl acetate) gives the title compound as colourless crystals. mp.: 160-165°.

reactant | 4-diacetylamino-6-[2-(2,5-dimethoxyphenyl)ethyl]-quinazoline | 50 mg | C(C)(=O)N(C1=NC=NC2=CC=C(C=C12)CCC1=C(C=CC(=C1)OC)OC)C(C)=O | C22H23N3O4
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6-[2-(2,5-dimethoxyphenyl)ethyl]-quinazoline | NC1=NC=NC2=CC=C(C=C12)CCC1=C(C=CC(=C1)OC)OC | C18H19N3O2
